US05401851
Ethyl 2-(4-nitro-1H-imidazole-1-yl)octanoate (17 moles, 5.0 g) was reacted with propylamine as in Example 1 to yield 2.5 g of N-propyl-2-(4-nitro-1H-imidazol-1-yl)octanoamide. (MS).

reactant | Ethyl 2-(4-nitro-1H-imidazole-1-yl)octanoate | 17 moles, 5.0 g | [N+](=O)([O-])C=1N=CN(C1)C(C(=O)OCC)CCCCCC | C13H21N3O4
reactant | propylamine | C(CC)N | C3H9N
product | N-propyl-2-(4-nitro-1H-imidazol-1-yl)octanoamide | 2.5 g | C(CC)NC(C(CCCCCC)N1C=NC(=C1)[N+](=O)[O-])=O | C14H24N4O3
